US04863904
A mixture of 139 mg of (±)-2-benzyl-3-(1-naphthylacetamido)propionic acid and 65 mg of 1,1'-carbonyldiimidazole was added to 5 ml of dry dichloromethane, and the mixture was stirred for 1 hour at room temperature. The reaction mixture was added to a solution of 261 mg of L-histidyl-L-leucinal semicarbazone.2p-toluenesulfonic acid salt and 0.11 ml of triethylamine in 3 ml of dry N,N-dimethylformamide, and the mixture was stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure, and a 5% aqueous sodium bicarbonate solution was added to the residue. The mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by preparative silica gel thin layer chromatography (developing solvent: lower layer of chloroform/methanol/water=8/3/1 by volume) to obtain 30 mg of N-[(±)-2-benzyl-3-(1-naphthylacetamido)propionyl]-L-histidyl-L-leucinal semicarbazone as a white powder.

reactant | (±)-2-benzyl-3-(1-naphthylacetamido)propionic acid | 139 mg | C(C1=CC=CC=C1)C(C(=O)O)CNC(CC1=CC=CC2=CC=CC=C12)=O | C22H21NO3
reactant | 1,1'-carbonyldiimidazole | 65 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
reactant | L-histidyl-L-leucinal semicarbazone | 261 mg | N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C=NNC(=O)N | C13H23N7O2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.11 ml | C(C)N(CC)CC | C6H15N
product | N-[(±)-2-benzyl-3-(1-naphthylacetamido)propionyl]-L-histidyl-L-leucinal semicarbazone | 30 mg | C(C1=CC=CC=C1)C(C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C=NNC(=O)N)CNC(CC1=CC=CC2=CC=CC=C12)=O | C35H42N8O4
